US06613743B2
N-tert-Butoxycarbonyl-3-chlorosulfonyl-N-methylaniline.
3-Bromo-N-tert-butoxycarbonyl-N-methylaniline (0.358g, 1.2 mmol) was dissolved in freshly distilled THF (5 ml) under a N2 atmosphere. The solution was chilled to −78° C. and n-butyl lithium (0.750 ml, 2.0 M solution in cyclohexane, 1.5 mmol) was added. After 15 minutes, sulfuryl chloride (0.121 ml, 1.5 mmol) was added and the reaction was allowed to warm to room temperature and stirring was continued overnight. THF was removed by evaporation and the resulting residue was diluted in EtOAc. Organic phase was washed with H20 and brine before being dried with MgSO4. The solvent was removed in vacuo. Purification by flash chromatography (1:19/EtOAc/Hex gradient to 1:9 and then to 1:4). Recovered 0.089 g (23%) of the product as a colorless oil. Rf=0.14 (1:9 EtOAc/Hex). 1H NMR (CDCl3) 7.96 (1H,s), 7.80 (1H,d), 7.68 (1H,d), 7.57 (1H,t), 3.33 (3H,s), 1.50 (9H,s).

reactant | 3-Bromo-N-tert-butoxycarbonyl-N-methylaniline | 1.2 mmol, 0.358g | BrC=1C=C(N(C)C(=O)OC(C)(C)C)C=CC1 | C12H16BrNO2
reactant | n-butyl lithium | 1.5 mmol, 2.0 M, 0.750 ml | C(CCC)[Li]
reactant | sulfuryl chloride | 1.5 mmol, 0.121 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-tert-Butoxycarbonyl-3-chlorosulfonyl-N-methylaniline | C(C)(C)(C)OC(=O)N(C1=CC(=CC=C1)S(=O)(=O)Cl)C | C12H16ClNO4S
